US08053456B2
A flask was charged with N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide, tetrahydrofuran (10 mL), methanol (10 mL), 10% palladium on carbon (50 mg.) (in some cases palladium hydroxide was used). The reaction was stirred under an atmosphere of hydrogen for 16 hours, filtered through celite, and evaporated to give N-(5-(2,4-dihydroxy-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide. 1H-NMR (CDCl3): 8.60 (br, 1H); 7.60 (d, 1H); 7.49 (d, 1H); 7.29 (br, 1H); 7.23 (d, 1H); 7.14 (dd, 1H); 6.55 (d, 1H); 6.40 (s, 1H); 6.38 (s, 1H); 3.94 (s, 3H); 2.82 (q, 1H); 2.20 (s, 3H); 0.47 (d, 6H). MS: expected ion=406.2; observed ion=406.3.

reactant | N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C=1N(C(=NN1)NC(C)=O)C=1C=C2C=CN(C2=CC1)C | C36H35N5O3
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | methanol | 10 mL | CO | CH4O
product | N-(5-(2,4-dihydroxy-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide | OC1=C(C=C(C(=C1)O)C(C)C)C=1N(C(=NN1)NC(C)=O)C=1C=C2C=CN(C2=CC1)C | C22H23N5O3
